US08729105B2
Preparation of 5-(2,3-dihydro-1H-inden-5-yl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 83 using 5-bromo-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide (example BP) and B-(2,3-dihydro-1H-inden-5-yl)-boronic acid (CAN 196861-31-1) as starting materials; LC-MS (UV peak area/ESI) 100%, 485.1016 (M−H)−.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | BrC=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F | C12H7BrF6N4O3
reactant | B-(2,3-dihydro-1H-inden-5-yl)-boronic acid | C1CCC2=CC(=CC=C12)B(O)O | C9H11BO2
product | 5-(2,3-dihydro-1H-inden-5-yl)-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | C1CCC2=CC(=CC=C12)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F | C21H16F6N4O3
